US06005116
(a) 4-Acetyl-3-(2-(N-tert-butoxycarbonylamino)ethoxy)-5-phenylisoxazole
3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-4-(1-hydroxyethyl)-5-phenylisoxazole (0.3 g) was dissolved in methylene chloride (3 ml), and pyridinium dichromate (0.49 g) was added thereto at room temperature, followed by stirring of the resulting mixture at the same temperature for 24 hours. After the reaction, insolubles were filtered and the solvent of the filtrate was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane/ethyl acetate=2/1) to obtain the title compound (0.26 g, 87%) as a colorless powder.

reactant | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-4-(1-hydroxyethyl)-5-phenylisoxazole | 0.3 g | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1C(C)O)C1=CC=CC=C1 | C18H24N2O5
reactant | pyridinium dichromate | 0.49 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 4-Acetyl-3-(2-(N-tert-butoxycarbonylamino)ethoxy)-5-phenylisoxazole | 0.26 g, 87% | C(C)(=O)C=1C(=NOC1C1=CC=CC=C1)OCCNC(=O)OC(C)(C)C | C18H22N2O5
